US04251263
In the same manner as in Example 1(a), 15.8 grams (0.1 mole) 2-chloronicotinic acid, 64.0 grams (0.5 mole) 3-chlorophenol, 45 grams (0.21 mole) 25% sodium methoxide solution and 100 milliliters methanol were combined to produce 22.1 grams (88.6% of theoretical yield) of 2-(3-chlorophenoxy) nicotinic acid, m.p. 161°-164° C.

reactant | 2-chloronicotinic acid | 0.1 mole, 15.8 grams | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 3-chlorophenol | 0.5 mole, 64.0 grams | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium methoxide | 0.21 mole, 45 grams | C[O-].[Na+]
solvent | methanol | 100 milliliters | CO | CH4O
product | 2-(3-chlorophenoxy) nicotinic acid | 22.1 grams, 88.6% | ClC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C12H8ClNO3
